US06100293
To a solution of 1.35 g (8.12 mmol) of 2-ethoxyphenethyl alcohol and 2.05 g (20.03 mmol) of triethylamine in 15 ml of dichloromethane was slowly added 1.86 g (16.24 mmol) of methanesulfonyl chloride at 0° C. The reaction mixture was stirred at 0° C. for 2 h and was poured into 200 ml of mixed solution of hexanelether(1:1). It was washed with 30 ml of water, dried over MgSO4, filtered through a plug of silica gel and concentrated. The residue was dissolved in 30 ml of acetone and 2.82 g (32.48 mmol) of lithium bromide was added slowly at 0° C. The reaction mixture was refluxed for 5 h and volatiles were removed. The residue was added 150 ml of ether, washed with water (30 ml ×2), dried over MgSO4, filtered through a plug of silica gel and concentrated to give 2-ethoxyphenethyl bromide as a colorless oil.

reactant | 2-ethoxyphenethyl alcohol | 8.12 mmol, 1.35 g | C(C)OC1=C(CCO)C=CC=C1 | C10H14O2
reactant | triethylamine | 20.03 mmol, 2.05 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 16.24 mmol, 1.86 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | 32.48 mmol, 2.82 g | [Br-].[Li+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-ethoxyphenethyl bromide | C(C)OC1=C(CCBr)C=CC=C1 | C10H13BrO
